US05118875
This example is directed to the preparation of a typical alkylated phenol component using the process disclosed in U.S. patent application Ser. No. 107,507 and alkyl phenol-formaldehyde condensates produced thereby. Octadecyl phenol was prepared by charging into a four-neck, 5-liter round bottom flask equipped with a mechanical stirrer, 933 grams of phenol (9.93 moles) and 286 grams of Amberlyst 15 catalyst. A reflux condenser, a thermometer, an addition funnel, and a nitrogen inlet tube were attached to the flask and the mixture was heated to 70° C. With stirring under a blanket of nitrogen, 834 grams (3.31 moles) of 1-octadecene was added dropwise over a period of about one hour. The temperature was raised to 90° C. and maintained at this temperature for four hours. The reaction mixture was then cooled to 50° C. and filtered to remove the catalyst. The excess phenol was removed by vacuum distillation. The yield was 1,008 grams, or 88%. The product had a refractive index of 1.4859 at 25° C., a viscosity of 38.0 cP at 40° C., and a hydroxyl number of 144 mg KOH/g. The infrared spectrum of the product showed absorption bands at 830 and 750 cm-1, which are characteristic of alkyl phenols. The aromatic substitution pattern was determined by 13C-NMR spectroscopy and showed that the ortho to para ratio was 2.0:1.0. The alkyl substitution pattern was determined by 1H-NMR spectroscopy and showed that the product consisted of 50 mole % 2-substituted alkylate and 50 mole %≥3-substituted alkylate.

reactant | phenol | 9.93 moles, 933 grams | C1(=CC=CC=C1)O | C6H6O
reactant | 1-octadecene | 3.31 moles, 834 grams | C=CCCCCCCCCCCCCCCCC | C18H36
product | Octadecyl phenol | C(CCCCCCCCCCCCCCCCC)C1=C(C=CC=C1)O | C24H42O
